US08383642B2
Ethyl-4-(spiro[indene-1,4′-piperidine]-1′-ylmethyl)benzoate
To a solution of spiro-[indene-1,4-piperidine]trifluoroacetate (4 g, 14 mmol) in ethanol (25 mL) is added ethyl 4-(bromomethyl)-benzoate (2.9 g, 12.6 mmol), followed by diisopropylethylamine (9.6 mL, 56 mmol). The reaction mixture is refluxed at 85° C. for overnight. The ethanol is removed under reduced pressure and the residue is partitioned between EtOAc (150 mL) and water (50 mL). The organic layer is washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue is purified by silica gel chromatography, eluting with hexane:ethyl acetate (8.0:2.0) to give the title compound as brown solid (2.8 g, 60%). 1H NMR (400 MHz) 7.94 (d, J=8 Hz, 2H), 7.51 (d, J=8 Hz, 2H), 7.43 (d, J=7.2 Hz, 1H), 7.31 (d, J=7.2 Hz, 1H), 7.18 (m, J=7.2 Hz, 2H), 6.94 (d, J=5.6 Hz, 1H), 6.78 (d, J=5.6 Hz, 1H), 4.30 (q, J=7.2 Hz, 2H), 3.67 (s, 2H), 2.85 (d, J=11.6 Hz, 2H), 2.38 (t, J=11.6 Hz, 2H), 2.09 (t, J=10.4 Hz, 2H), 1.31 (t, J=7.2 Hz, 2H), 1.19 (d, J=12.8 Hz, 2H).

reactant | ethyl 4-(bromomethyl)-benzoate | 12.6 mmol, 2.9 g | BrCC1=CC=C(C(=O)OCC)C=C1 | C10H11BrO2
reactant | diisopropylethylamine | 56 mmol, 9.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethanol | 25 mL | C(C)O | C2H6O
product | Ethyl-4-(spiro[indene-1,4′-piperidine]-1′-ylmethyl)benzoate | 2.8 g, 60% | C(C)OC(C1=CC=C(C=C1)CN1CCC2(CC1)C=CC1=CC=CC=C12)=O | C23H25NO2
